US05750744
17β-(cyclopropoxy)-4-nitro-androst-4-en-3-one
Potassium tert-butoxide (109 g, 0.97 mol, 2.1 molar equivalents) is added to a stirred solution of 17β-(cyclopropyloxy)-androst-4-en-3-one (150 g, 0.46 mol) in tert-butanol (2 L) over 10 minutes at room temperature and under nitrogen. Continue stirring at room temperature for 18 hours, then add isopropylnitrate (48.2 g, 0.46 mol, 1.0 mol. equiv.) in tert-butanol (50 mL) over 30 minutes at room temperature. After an additional day of continuous stirring at room temperature, glacial acetic acid (130 mL) is added over 25 minutes and stirring is continued for an additional 18 hours. Subsequently, methylene chloride (1.5 L) and brine (saturated NaCl, 800 mL) is added and the solution is stirred an additional 10 minutes. The organic phase is then seperated and dried over magnesium sulfate. The resulting slurry is filered and the filtrate concentrated (35° C./40 Torr) to give a dark red oil. Purify by flash chromatography (SiO2, elution: EtOAc/hexane 5:95, EtOAc/hexane 1:9 and EtOAc/hexane 15:85). Combine and concentrate the fractions containing the desired product (30° C./40 Torr) to give a solid residue which is stirred under hexane (350 mL). Filter and dry the solids to give the title compound (68 g, 40%) as a yellow solid.

reactant | Potassium tert-butoxide | 0.97 mol, 2.1 molar, 109 g | CC(C)([O-])C.[K+]
reactant | 17β-(cyclopropyloxy)-androst-4-en-3-one | 0.46 mol, 150 g | C1(CC1)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C22H32O2
reactant | isopropylnitrate | 0.46 mol, 48.2 g | C(C)(C)O[N+](=O)[O-] | C3H7NO3
reactant | acetic acid | 130 mL | C(C)(=O)O | C2H4O2
solvent | tert-butanol | 2 L | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 50 mL | C(C)(C)(C)O | C4H10O
solvent | brine | 800 mL | [Cl-].[Na+].O
solvent | methylene chloride | 1.5 L | C(Cl)Cl | CH2Cl2
product | 17β-(cyclopropoxy)-4-nitro-androst-4-en-3-one | 68 g, 40% | C1(CC1)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=C(C(CC[C@]3(C)[C@H]1CC2)=O)[N+](=O)[O-] | C22H31NO4
